US06740760B2
a) (S)-1-[[4-[2-[(S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-phenyl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 1.0 g (4.1 mmol) L-Proline benzyl ester hydrochloride and 400 mg (2.1 mmol) 1,4-phenylenediacetic acid afforded, after flash chromatography (EtOAc), 1.07 g (91%) of the title compound as a colorless oil.

reactant | L-Proline benzyl ester hydrochloride | 4.1 mmol, 1.0 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | 1,4-phenylenediacetic acid | 2.1 mmol, 400 mg | C1(=CC=C(C=C1)CC(=O)O)CC(=O)O | C10H10O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-1-[[4-[2-[(S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-phenyl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester | 1.07 g, 91% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C(CC1=CC=C(C=C1)CC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C34H36N2O6
